US06358980B1
4-{[4-(2-Butynyloxy)phenyl]sulfonyl}-1-(3-pentanyl)-piperidine-4-carboxylic acid ethyl ester was was prepared according to the general method as outlined in example 1 (step 6), starting from ethyl{[4-(2-butynyloxy)phenyl]sulfonyl}acetate (8.8 g, 30.0 mmol) and bis-(2-chloro-ethyl)-(3-pentanyl)-amine dihydrochloride (7.4 g, 30 mmol), 3.5 g of product (brown oil) was isolated. Yield 26%; MS: 436 (M+H)+

reactant | ethyl{[4-(2-butynyloxy)phenyl]sulfonyl}acetate | 30.0 mmol, 8.8 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | bis-(2-chloro-ethyl)-(3-pentanyl)-amine dihydrochloride | 30 mmol, 7.4 g | Cl.Cl.ClCCN(C(CC)CC)CCCl
product | 4-{[4-(2-Butynyloxy)phenyl]sulfonyl}-1-(3-pentanyl)-piperidine-4-carboxylic acid ethyl ester | Yield 26% | C(C)OC(=O)C1(CCN(CC1)C(CC)CC)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C23H33NO5S
